US05859153
Example 5. Preparation of catechol-(p-methoxyphenol) novolak
To a 1 liter, 3 necked round bottomed flask equipped with a paddle stirrer, condenser, thermometer and heating source, were added 150 g (0.81 mole) of the 2,6-dimethylol-4-methoxyphenol, followed by 9 g (0.1 moles) of oxalic acid and 180 g (1.63 moles) of catechol. To this were added 400 g of water. The reaction mixture was stirred and heated to 70° C. Solution occurred when the temperature reached approximately 60° C. Then, the reaction mixture was heated to reflux and held at reflux for 4 hours. After 1 hour at reflux, the product began to separate.

reactant | 2,6-dimethylol-4-methoxyphenol | 0.81 mole, 150 g | C(O)C1=C(C(=CC(=C1)OC)CO)O | C9H12O4
reactant | oxalic acid | 0.1 moles, 9 g | C(C(=O)O)(=O)O | C2H2O4
reactant | catechol | 1.63 moles, 180 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | water | 400 g | O | H2O
product | catechol-(p-methoxyphenol) | COC1=CC=C(C=C1)O.C=1(O)C(O)=CC=CC1 | InChI=1S/C7H8O2.C6H6O2/c1-9-7-4-2-6(8)3-5-7;7-5-3-1-2-4-6(5)8/h2-5,8H,1H3;1-4,7-8H
